US05627177
Methyl pyruvate-3-nitrophenylhydrazone
A solution of methylpyruvate (31.8 g, 0.312 mol) in water-ethanol (10:1, 100 ml) was slowly added to a hot solution of 3-nitrophenylhydrazine hydrochloride (59.2 g, 0.312 mol) and sodium acetate (28.0 g, 0.34 mol) in water and ethanol (5:7, 1200 ml). The mixture was stirred at room temperature for 2 h during which time a heavy yellow precipitate developed. The precipitate was filtered, washed with cold water (2000 ml), and dried to give the product (66 g) as a yellow solid.

reactant | methylpyruvate | 0.312 mol, 31.8 g | CCC(C(=O)[O-])=O
reactant | 3-nitrophenylhydrazine hydrochloride | 0.312 mol, 59.2 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | sodium acetate | 0.34 mol, 28.0 g | C(C)(=O)[O-].[Na+]
solvent | water ethanol | 100 ml | O.C(C)O
solvent | water | O | H2O
solvent | ethanol | 1200 ml | C(C)O | C2H6O
product | Methyl pyruvate-3-nitrophenylhydrazone | 66 g | [N+](=O)([O-])C=1C=C(C=CC1)NN=C(C(=O)OC)C | C10H11N3O4
